US07238714B2
Step 1. Methyl 2-(2,6-difluorophenoxy)-5-nitrobenzoate
The title compound was prepared according to the procedure described in step 1 of Example 67 from methyl 2-fluoro-5-nitrobenzoate (J. Org. Chem. 1990, 55, 2034.) and 2,6-difluorophenol: 1H-NMR (CDCl3) δ 8.83 (1H, d, J=2.8 Hz), 8.25 (1H, dd, J=9.2, 2.8 Hz), 7.32–7.20 (1H, m), 7.12–7.02 (2H, m), 6.82 (1H, d, J=9.2 Hz), 3.98 (3H, s); MS (ESI) m/z 310 (M+H)+.

reactant | methyl 2-fluoro-5-nitrobenzoate | FC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6FNO4
reactant | 2,6-difluorophenol | FC1=C(C(=CC=C1)F)O | C6H4F2O
product | Methyl 2-(2,6-difluorophenoxy)-5-nitrobenzoate | FC1=C(OC2=C(C(=O)OC)C=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C14H9F2NO5
